US04242521
(1R, cis)-2,2-Dimethyl-3-(2-(isopropoxyimino)propyl)cyclopropanecarboxylic acid
To a solution of 1.85 g of sodium bicarbonate in 50 ml of water, were added 1.70 g of (1R,cis)-2,2-dimethyl-3-(2-oxopropyl)cyclopropanecarboxylic acid and 1.15 g of isopropoxyamine hydrochloride at room temperature. The reaction mixture was stirred at room temperature for 4.5 hours and filtered through celite. The filtrate was acidified with concentrated hydrochloric acid to a pH of 2, and extracted with methylene chloride. The organic extract was washed with a sodium chloride solution, dried over magnesium sulfate, stripped and concentrated under high vacuum to give the desired product as a slightly amber oil.

reactant | sodium bicarbonate | 1.85 g | C([O-])(O)=O.[Na+]
reactant | (1R,cis)-2,2-dimethyl-3-(2-oxopropyl)cyclopropanecarboxylic acid | 1.70 g | CC1([C@@H]([C@@H]1CC(C)=O)C(=O)O)C | C9H14O3
reactant | isopropoxyamine hydrochloride | 1.15 g | Cl.C(C)(C)ON
solvent | water | 50 ml | O | H2O
product | (1R, cis)-2,2-Dimethyl-3-(2-(isopropoxyimino)propyl)cyclopropanecarboxylic acid | CC1([C@@H]([C@@H]1CC(C)=NOC(C)C)C(=O)O)C | C12H21NO3
